US05631372
Diethyl 1-Fluoro-4-phosphono-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) 1,4-Diazoniabicyclo[2.2.2]octane (11 g, 10 mmol) in THF (100 mL) is reacted with diethyl chlorophosphate (17.3 g, 10 mmol) until the reaction is complete by TLC. The reaction is evaporated, diluted with acetonitrile (100 mL) and sodium tetrafluoroborate (40 g, 20 mmol) added. The solution is stirred overnight at room temperature and then filtered to remove all undissolved salts. The filtrate is evaporated to afford diethyl- 1-phosphono-4-aza-1-azoniabicyclo[2.2.2]octane tetrafluoroborate.

reactant | Diethyl 1-Fluoro-4-phosphono-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) 1,4-Diazoniabicyclo[2.2.2]octane | 10 mmol, 11 g | [NH+]12CC[NH+](CC1)CC2.F[B-](F)(F)F.F[B-](F)(F)F.C(C)C2([N+]1(CC[N+](C2)(CC1)P(=O)(O)O)F)CC
reactant | diethyl chlorophosphate | 10 mmol, 17.3 g | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | sodium tetrafluoroborate | 20 mmol, 40 g | F[B-](F)(F)F.[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | diethyl- 1-phosphono-4-aza-1-azoniabicyclo[2.2.2]octane tetrafluoroborate | F[B-](F)(F)F.C(C)C1([N+]2(CCN(C1)CC2)P(=O)(O)O)CC | InChI=1S/C10H21N2O3P.BF4/c1-3-10(4-2)9-11-5-7-12(10,8-6-11)16(13,14)15;2-1(3,4)5/h3-9H2,1-2H3,(H-,13,14,15);/q;-1/p+1
